US08212041B2
4-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)quinoline-7-carboxamide
A mixture of 4-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)quinoline-7-carbonitrile (0.300 g, 0.793 mmol) and SULFURIC ACID (3.00 ml, 56.3 mmol) was heated at 90° C. for 30 min. Quenched onto ice and sodium bicarbonate. Isolated solid by filtration and purified on RPHPLC. Fractions containing product were treated with 9% sodium carbonate. Removed volatiles. Product crashed out and was isolated by filtraton. MS m/z=397.1 [M+1]+. Calc'd for C22H16N6O2: 396.4.

reactant | 4-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)quinoline-7-carbonitrile | 0.793 mmol, 0.300 g | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)C#N | C22H14N6O
reactant | SULFURIC ACID | 56.3 mmol, 3.00 ml | S(O)(O)(=O)=O | H2O4S
product | 4-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)quinoline-7-carboxamide | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)C(=O)N | C22H16N6O2
